US07598384B2
2-Isobutoxy-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one hydrochloride
In analogy to the procedure described in Example 9, 2-chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one was treated with iso-butyl alcohol to give the title compound in 35% yield.

reactant | 2-chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one | ClC1=NC=2CC(CC(C2C=C1)=O)(C)C | C11H12ClNO
solvent | iso-butyl alcohol | C(C(C)C)O | C4H10O
product | 2-Isobutoxy-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one hydrochloride | 35% yield | Cl.C(C(C)C)OC1=NC=2CC(CC(C2C=C1)=O)(C)C | InChI=1S/C15H21NO2.ClH/c1-10(2)9-18-14-6-5-11-12(16-14)7-15(3,4)8-13(11)17;/h5-6,10H,7-9H2,1-4H3;1H
